US04227000
A mixture of 2-(3,4-dimethoxy-2-pyridylmethylthio)ethylamine (0.95 g, 4.16 mmol), 2-nitroamino-5-(3-pyridylmethyl)-4-pyrimidone (0.925 g, 3.74 mmol) and pyridine (3.5 ml) was heated under reflux for 24 hours and evaporated to dryness. The residue was purified by elution from silica gel with methanolchloroform (1:7) and recrystallisation from ethanol to give 2-[2-(3,4-dimethoxy-2-pyridylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone 121°-1.5°.

reactant | 2-(3,4-dimethoxy-2-pyridylmethylthio)ethylamine | 4.16 mmol, 0.95 g | COC=1C(=NC=CC1OC)CSCCN | C10H16N2O2S
reactant | 2-nitroamino-5-(3-pyridylmethyl)-4-pyrimidone | 3.74 mmol, 0.925 g | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C10H9N5O3
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-(3,4-dimethoxy-2-pyridylmethylthio)ethylamino]-5-(3-pyridylmethyl)-4-pyrimidone | COC=1C(=NC=CC1OC)CSCCNC1=NC=C(C(N1)=O)CC=1C=NC=CC1 | C20H23N5O3S
